US07893056B2
1,1-Dimethylethyl (3R)-3-(dimethylamino)-1-piperidinecarboxylate (5.0 g crude, 21.12 assumed mmol) was dissolved and stirred in a mixture of CH2Cl2 (10 mL) and 4M HCl in dioxane (21 mL, 4 eqv.) A white precipitate formed. The reaction appeared to stall at approximately 70% completion, and therefore another 21 mL of 4M HCl in dioxane was added to the reaction mixture. After 4 h at room temperature, the solvent was evaporated, providing (3R)—N,N-dimethyl-3-piperidinamine, dihydrochloride as a white solid (3.5 g, 89% for two steps).

reactant | 1,1-Dimethylethyl (3R)-3-(dimethylamino)-1-piperidinecarboxylate | 5.0 g | CN([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C12H24N2O2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 4M, 21 mL | Cl | ClH
solvent | dioxane | 21 mL, 4 eqv. | O1CCOCC1 | C4H8O2
product | (3R)—N,N-dimethyl-3-piperidinamine, dihydrochloride | Cl.Cl.CN([C@H]1CNCCC1)C | InChI=1S/C7H16N2.2ClH/c1-9(2)7-4-3-5-8-6-7;;/h7-8H,3-6H2,1-2H3;2*1H/t7-;;/m1../s1
